US07572805B2
Part C. (±)-trans-Benzyl 1-benzyl-4-(2-(methoxycarbonyl)-3-(trifluoromethyl)phenyl)pyrrolidine-3-carboxylate
To a solution of (E)-methyl 2-(3-(benzyloxy)-3-oxoprop-1-enyl)-6-(trifluoromethyl)benzoate (5.83 g, 16.0 mmol) in 60 mL of CH2Cl2 was added N-(methoxymethyl)-N-(trimethylsilylmethyl)benzylamine (4.0 g, 16.8 mmol) and trifluoroacetic acid (0.25 mL, 3.2 mmol). The solution was allowed to stir at ambient temperature for 18 h. Starting material still remained by TLC analysis and so additional N-(methoxymethyl)-N-(trimethylsilylmethyl)benzylamine (0.25 g, 1.05 mmol) and trifluoroacetic acid (0.05 mL, 0.65 mmol) were added and the reaction was stirred at 40° C. for an additional 2 h. The reaction was allowed to cool and was diluted with EtOAc, washed with sat'd aq NaHCO3 and brine, dried (MgSO4) and concentrated. The residue was purified by flash chromatography (4:1 hexane/EtOAc) to afford 7.6 g (95%) of the title compound as an oil. LRMS (ES)+: 498.32 (M+H)+.

reactant | (E)-methyl 2-(3-(benzyloxy)-3-oxoprop-1-enyl)-6-(trifluoromethyl)benzoate | 16.0 mmol, 5.83 g | C(C1=CC=CC=C1)OC(/C=C/C1=C(C(=O)OC)C(=CC=C1)C(F)(F)F)=O | C19H15F3O4
reactant | N-(methoxymethyl)-N-(trimethylsilylmethyl)benzylamine | 16.8 mmol, 4.0 g | COCN(C[Si](C)(C)C)CC1=CC=CC=C1 | C13H23NOSi
reactant | trifluoroacetic acid | 3.2 mmol, 0.25 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | CH2Cl2 | 60 mL | C(Cl)Cl | CH2Cl2
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | N-(methoxymethyl)-N-(trimethylsilylmethyl)benzylamine | 1.05 mmol, 0.25 g | COCN(C[Si](C)(C)C)CC1=CC=CC=C1 | C13H23NOSi
catalyst | trifluoroacetic acid | 0.65 mmol, 0.05 mL | FC(C(=O)O)(F)F | C2HF3O2
product | (±)-trans-Benzyl 1-benzyl-4-(2-(methoxycarbonyl)-3-(trifluoromethyl)phenyl)pyrrolidine-3-carboxylate | 7.6 g, 95% | C(C1=CC=CC=C1)N1C[C@H]([C@@H](C1)C1=C(C(=CC=C1)C(F)(F)F)C(=O)OC)C(=O)OCC1=CC=CC=C1 | C28H26F3NO4
